US06677337B2
Preparation of 4-(4-fluorophenyl)-1,2-dimethyl-5-(2-phenoxypyrimidin-4-yl)-1,2-dihydropyrazol-3-one (31):
To a solution of phenol (0.12 g, 1.29 mmol) in THF (5 mL) is added sodium hydride (0.04 g, 1.08 mmol). After stirring at room temperature for 10 min, a solution of 4-(4-fluorophenyl)-1,2-dimethyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-1,2-dihydropyrazol-3-one, 30, (0.20 g, 0.55 mmol) in THF (5 mL) is added to the reaction mixture. The mixture is stirred at room temperature for 4 hours. The reaction is then quenched with H2O and diluted with EtOAc. The organic phase is washed with 1N NaOH (×2), dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified by preparatory HPLC to the desired product: 1H NMR (300 MHz, CDCl3) δ 8.51 (d, J=4.8 Hz, 1H), 7.48 (t, J=8.1 Hz, 2H), 7.36-7.31 (m, 3H), 7.24 (dd, J=7.5, 1.2 Hz, 2H), 7.04 (t, J=9.0 Hz, 2H), 6.94 (d, J=5.1 Hz, 1H), 3.53 (s, 3H), 3.38 (s, 3H); HRMS calcd for C21H18FN4O2 (M+H)+377.1418; found 377.1397.

reactant | phenol | 1.29 mmol, 0.12 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 1.08 mmol, 0.04 g | [H-].[Na+]
reactant | 4-(4-fluorophenyl)-1,2-dimethyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-1,2-dihydropyrazol-3-one | FC1=CC=C(C=C1)C=1C(N(N(C1C1=NC(=NC=C1)S(=O)(=O)C)C)C)=O | C16H15FN4O3S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(4-fluorophenyl)-1,2-dimethyl-5-(2-phenoxypyrimidin-4-yl)-1,2-dihydropyrazol-3-one | FC1=CC=C(C=C1)C=1C(N(N(C1C1=NC(=NC=C1)OC1=CC=CC=C1)C)C)=O | C21H17FN4O2
